US05914401
N-methylpiperazine was first introduced into compound XXXXVIII which was converted to enaminoketoester L on treatment with N,N-dimethylformamide dimethyl acetal in toluene followed by the reaction with 2-amino-1-propanol in ethanol. Reaction of enaminoketoester L with potassium fluoride in DMF gave quinoline LI which was cyclized with strong base such as sodium hydride to give the ester LII. Alternatively, enaminoketoester L may be reacted with sodium hydride in dioxane to yield the ester LII which was hydrolyzed with sodium hydroxide to give Ofloxacin.

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | 2-amino-1-propanol | NC(CO)C | C3H9NO
reactant | potassium fluoride | [F-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
